US08633173B2
197 h) N-Methyl-N-[2-(1-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-ethyl)-phenyl]-methanesulfonamide was prepared from N-{2-[1-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-ethyl]-phenyl}-N-methyl-methanesulfonamide (75.0 mg, 0.197 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (42.0 mg, 0.220 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (18.0 mg, 0.0329 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale yellow solid (0.008 g, 8%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.77-7.25 (m, 8H), 7.00-6.93 (m, 2H), 6.65-6.30 (m, 3H), 5.40-5.24 (m, 1H), 5.00-4.91 (m, 1H), 3.35-3.29 (m, 3H), 3.19-3.13 (m, 4H), 3.07-3.01 (m, 3H), 2.63-2.58 (m, 4H), 2.36 (s, 3H), 1.72-1.55 (m, 3H). MS=535 (MH)+.

reactant | N-{2-[1-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-ethyl]-phenyl}-N-methyl-methanesulfonamide | 0.197 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC(C)C2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C16H18ClN5O2S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.220 mmol, 42.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0329 mmol, 18.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-[2-(1-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-ethyl)-phenyl]-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C(C)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C27H34N8O2S
